US05919798
2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-1,3-dioxane fumarate
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.0 g, 9.1 mmol), K2CO3 (1.5 g, 10.9 mmol) and bromoethyl-1,3-dioxane (2.1 g, 10.7 mmol) in acetonitrile (50 ml) was heated at reflux for 3 hours. At the end, the insolubles were filtered and rinsed with DCM and the filtrate was evaporated down. The crude mixture was purified by flash chromatography over a silica gel column (Sorbsil C-30, 25 g; eluted with DCM and MEOH (1-3%) in DCM). The fractions containing the pure product with DCM and MEOH (1-3%) in DCM). The fractions containing the pure product fumaric acid (1.0 g) ethanol solution. The crystals were collected: 3.98 g (77%), m.p.=161-162° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 9.1 mmol, 2.0 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 10.9 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethyl-1,3-dioxane | 10.7 mmol, 2.1 g | BrCCC1OCCCO1 | C6H11BrO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-1,3-dioxane fumarate | C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2OCCCO2)C=C1 | InChI=1S/C18H23FN2O3.C4H4O4/c19-14-2-3-15-16(12-14)24-20-18(15)13-4-7-21(8-5-13)9-6-17-22-10-1-11-23-17;5-3(6)1-2-4(7)8/h2-3,12-13,17H,1,4-11H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
